US06770646B2
d) 2-[(3-Chlorophenyl)methyl]-3-(2-hydroxyethoxy)-7-(methoxymethyl)-5-methylthieno[2,3-d]pyridazin-4(5H)-one
2.0M butyl lithium in hexanes (1 ml) was diluted with tetrahydrofuran (3 ml) and cooled to −20° C. 5-[(3-Chlorophenyl)methyl]-4-{2-[(1,1-dimethylethyl)-dimethylsilyl]oxyethoxy}thiophene-3carboxylic acid in tetrahydrofuran (1 ml of 1M solution) was added slowly. The solution was mixed for 10 minutes and then 1 mmol of 2,N-Dimethoxy-N-methylacetamide in 1 ml of tetrahydrofuran was added. The solution was mixed for 10 minutes and was then added to 5 m of ammonium chloride solution. The reaction mixture was evaporated in air for 18 hours. The residue was dissolved in dichloromethane and washed with water twice. The solvent was allowed to evaporate and the residue was then dissolved in 5 ml of ethanol. To this solution was added 92 mg of methyl hydrazine. The resulting solution was heated at reflux for 4 hours. The reaction mixture was allowed to cool and the solvent was evaporated. Purification by column chromatography, eluting with an isohexane:ethyl acetate gradient, gave the title compound (4 mg).

reactant | butyl lithium | 2.0M | C(CCC)[Li]
reactant | 5-[(3-Chlorophenyl)methyl]-4-{2-[(1,1-dimethylethyl)-dimethylsilyl]oxyethoxy}thiophene-3carboxylic acid | ClC=1C=C(C=CC1)CC1=C(C(=CS1)C(=O)O)OCCO[Si](C)(C)C(C)(C)C | C20H27ClO4SSi
reactant | 2,N-Dimethoxy-N-methylacetamide | 1 mmol | COCC(=O)N(C)OC | C5H11NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 2-[(3-Chlorophenyl)methyl]-3-(2-hydroxyethoxy)-7-(methoxymethyl)-5-methylthieno[2,3-d]pyridazin-4(5H)-one | 4 mg | ClC=1C=C(C=CC1)CC1=C(C2=C(C(=NN(C2=O)C)COC)S1)OCCO | C18H19ClN2O4S
